US03960892
To a stirred suspension of 2.0221 g. (8.560 mM) of 8-methoxy-1-oxo-1H-2-benzothiopyran-3-carboxylic acid in 50 ml. of distilled water is added 0.7191 g. (8.560 mM) of sodium bicarbonate. The solid dissolves fairly rapidly and after stirring at 25° for 1 hour the solution is filtered and the filtrate freeze-dried to give sodium 8-methoxy-1-oxo-1H-2-benzothiopyran-3-carboxylate as a yellow solid, m.p. 307° (dec.).

reactant | 8-methoxy-1-oxo-1H-2-benzothiopyran-3-carboxylic acid | 8.560 mM | COC1=CC=CC=2C=C(SC(C21)=O)C(=O)O | C11H8O4S
reactant | sodium bicarbonate | 8.560 mM | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | sodium 8-methoxy-1-oxo-1H-2-benzothiopyran-3-carboxylate | COC1=CC=CC=2C=C(SC(C21)=O)C(=O)[O-].[Na+] | InChI=1S/C11H8O4S.Na/c1-15-7-4-2-3-6-5-8(10(12)13)16-11(14)9(6)7;/h2-5H,1H3,(H,12,13);/q;+1/p-1
